US04705791
2-Chloromethoxynaphthalene
4-Chloro-1-(chloromethylthio)benzene (20 mmol) in DMF (10 ml) was added to a mixture of 2-hydroxynaphthalene (20 mmol) and potassium tert-butoxide (20 mmol) in DMF (40 ml). The mixture was stirred at 80° C. for 2 hours before the solvent was distilled off and the residue triturated with water, extracted into ether and washed three times with water. The dried (MgSO4) solution was evaporated and recrystallized from EtOH yield: 3.30 g (57%). m.p. 70° C. The product (10.3 mmol) was dissolved in dry CH2Cl2 (30 ml) and SO2Cl2 (10.3 mmol) in dry CH2Cl2 (10 ml) was added with stirring at room temperature for 5 minutes. The mixture was stirred for 10 minutes before styrene (10.3 mmol) in dry CH2Cl2 (10 ml) was added with stirring at 5° C. for 10 minutes. The mixture was stirred for 20 minutes at room temperature before the solvent was distilled off and the residue distilled under vacuum. Yield: 1.50 g (76%) b.p. 82°-95° C. 0.03 mmHg [see J. Appl. Chem. 3, 266(1953) b.p. 90°-110° C./0.15 mmHg].

reactant | 4-Chloro-1-(chloromethylthio)benzene | 20 mmol | ClC1=CC=C(C=C1)SCCl | C7H6Cl2S
reactant | 2-hydroxynaphthalene | 20 mmol | OC1=CC2=CC=CC=C2C=C1 | C10H8O
reactant | potassium tert-butoxide | 20 mmol | CC(C)([O-])C.[K+]
reactant | styrene | 10.3 mmol | C=CC1=CC=CC=C1 | C8H8
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloromethoxynaphthalene | ClCOC1=CC2=CC=CC=C2C=C1 | C11H9ClO
